US06069156
To a solution of 3-isobutyryl-2-propyl-1-(2-pyridylmethyl)indole-6-carboxamide (80 mg) in chloroform (2 ml) was added 1M solution of hydrogen chloride in methanol (1 ml) at 25° C., and the mixture was stirred for 15 minutes. After evaporation of solvent, the residue was crystallized from a mixture of ethanol and ethyl acetate to give 3-isobutyryl-2-propyl-1-(2-pyridylmethyl)indole-6-carboxamide hydrochloride (80 mg) as colorless crystals.

reactant | 3-isobutyryl-2-propyl-1-(2-pyridylmethyl)indole-6-carboxamide | 80 mg | C(C(C)C)(=O)C1=C(N(C2=CC(=CC=C12)C(=O)N)CC1=NC=CC=C1)CCC | C22H25N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 1 ml | CO | CH4O
product | 3-isobutyryl-2-propyl-1-(2-pyridylmethyl)indole-6-carboxamide hydrochloride | 80 mg | Cl.C(C(C)C)(=O)C1=C(N(C2=CC(=CC=C12)C(=O)N)CC1=NC=CC=C1)CCC | InChI=1S/C22H25N3O2.ClH/c1-4-7-18-20(21(26)14(2)3)17-10-9-15(22(23)27)12-19(17)25(18)13-16-8-5-6-11-24-16;/h5-6,8-12,14H,4,7,13H2,1-3H3,(H2,23,27);1H
